datasets/RMG-dataset.csv
rxn,Ea
[H:11].[O:0]=[C:1]1[C:2]=[C:3]([H:8])[C:4](=[O:5])[C:6]([H:9])=[C:7]1[H:10]>>[O:0]=[C:1]1[C:2]([H:11])=[C:3]([H:8])[C:4](=[O:5])[C:6]([H:9])=[C:7]1[H:10],0.0
[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])[H:8].[H:14][H:15]>>[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])([H:8])[H:15].[H:14],87.9142
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5]([H:17])([H:18])[H:19])[C:6]([C:7](=[C:8]([C:9]([C:10]([H:25])([H:26])[H:27])[H:24])[H:23])[H:22])([H:20])[H:21])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([H:17])([H:18])[H:19])[C:6]([H:20])([H:21])[C:7]([H:22])=[C:8]([H:23])[C:9]1([C:10]([H:25])([H:26])[H:27])[H:24])[H:13])([H:11])[H:12],112.759
[C:0]([C:1]([N:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5]>>[C:0]([C:1](=[N:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6],152.054928
[C:0]([C:1](=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[H:12]>>[C:0]([C:1](=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])([H:6])[H:12],12.63568
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])[H:6],8.66088
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[O:6][O:7][H:8]>>[C:0]([O:1])([H:2])([H:3])[H:4].[H:5][O:6][O:7][H:8],66.224352
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][O:5][H:14])[H:10])[H:9])([H:6])([H:7])[H:8].[O:15][O:16]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][O:5][H:14])[H:10])([H:9])[O:15][O:16])([H:6])([H:7])[H:8],-2.244716
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](#[C:16][C:17]([H:19])[H:20])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:17]([C:16]#[C:15][H:18])([H:19])[H:20])[H:8])[H:7],35.8987
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([H:10])([H:11])[H:12]>>[C:0]([C:1]([H:6])[H:7])([H:3])([H:4])[H:5].[O:2]([H:8])[C:9]([H:10])([H:11])[H:12],170.476
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[O:16][O:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])([H:11])[H:12])[H:10])[H:8])([H:6])[H:7].[H:9][O:16][O:17],162.71576
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9][C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[C:9](=[C:8]([H:11])[H:12])[C:10]([H:13])([H:14])[H:15])[H:4],19.2046
[C:0](=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]2=[C:2]([H:8])[C:3]([H:9])=[C:4]([H:10])[C:5]12[H:11],172.393352
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19]([C:20]([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38])([H:28])([H:29])[H:30]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[C:20]([C:19]([H:28])([H:29])[H:30])([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38])[H:9],31.631
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:18])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[H:19])([H:15])([H:16])[H:17],76.9856
[N:0]([N:1]([N:2]([H:6])[H:7])[H:5])([H:3])[H:4]>>[N-:1]=[N+:2]([H:6])[H:7].[N:0]([H:3])([H:4])[H:5],171.3
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[O:11][O:12][H:13]>>[C:0]([O:1][C:2]([C:3]([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[H:8][O:11][O:12][H:13],44.065888
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([O:14][O:15])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][O:15][O:14][C:13]([H:16])([H:17])[H:18],58.19944
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[C:15]([O:16])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:10][O:16][C:15]([H:17])([H:18])[H:19],19.125064
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[N:8]=[C:9]=[O:10]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][N:8]=[C:9]=[O:10],-12.17544
